US04695575
A mixture of 7.5 parts of 6-chloro-N4 -[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-4,5-pyrimidinediamine and 3.6 parts of urea was stirred and heated for 20 minutes at 220° C. Water was added to the reaction mixture. The precipitated product was filtered off and crystallized from methanol. The product was filtered off and recrystallized from a mixture of N,N-dimethylformamide and methanol, yielding 2.5 parts (32%) of 6-chloro-9-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-9H-purin-8-ol; mp. 243.0° C. (494).

reactant | 6-chloro-N4 -[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-4,5-pyrimidinediamine | ClC1=C(C(=NC=N1)NCCN1CCC(CC1)CC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)N | C26H29ClFN7
reactant | urea | NC(=O)N | CH4N2O
solvent | Water | O | H2O
product | 6-chloro-9-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-9H-purin-8-ol | 32% | ClC1=C2N=C(N(C2=NC=N1)CCN1CCC(CC1)CC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)O | C27H27ClFN7O
